US06495555B1
A mixture of 1,2,3,4-tetrahydro-[1]benzothieno[2,3-c]pyridine (0.02 mol), Na2CO3 (5 g), KI (0.1 g) and 4-chlorobutanenitrile (0.025 mol) in acetonitrile (50 ml) and methylbenzene (150 ml) was stirred and refluxed overnight, then cooled, filtered and the filtrate was evaporated. The residue (oil) was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH 98/2). The pure fractions were collected and the solvent was evaporated, yielding 5.2 g of 3,4-dihydrobenzothieno[2,3-c]-pyridine-2(1H)-butanenitrile (interm. 6).

reactant | 1,2,3,4-tetrahydro-[1]benzothieno[2,3-c]pyridine | 0.02 mol | C1NCCC2=C1SC1=C2C=CC=C1 | C11H11NS
reactant | Na2CO3 | 5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-chlorobutanenitrile | 0.025 mol | ClCCCC#N | C4H6ClN
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | methylbenzene | 150 ml | CC1=CC=CC=C1 | C7H8
product | 3,4-dihydrobenzothieno[2,3-c]-pyridine-2(1H)-butanenitrile | 5.2 g | C1N(CCC2=C1SC1=C2C=CC=C1)CCCC#N | C15H16N2S
